US04034107
A stirred mixture of o-nitroaniline (82.5 g.), dry sodium thiocyanate (180 g.) and acetic acid (1 liter) was treated at 11°-12° C. with a solution of bromine (96.5 g.) in acetic acid (100 ml.). The stirring was continued for a further hour at 11°-12° C. and the mixture was then allowed to warm to 15° C. and poured into water (3.5 liters). The yellow solid was filtered off, washed with water, and dissolved in acetone (1 liter). The solution was filtered and the filtrate was evaporated to give 2-nitro-4-thiocyanato-aniline (107 g.), m.p. 110°-112° C.

reactant | o-nitroaniline | 82.5 g | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | sodium thiocyanate | 180 g | [S-]C#N.[Na+]
reactant | bromine | 96.5 g | BrBr | Br2
reactant | water | 3.5 liters | O | H2O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 1 liter | C(C)(=O)O | C2H4O2
product | 2-nitro-4-thiocyanato-aniline | 107 g | [N+](=O)([O-])C1=C(N)C=CC(=C1)SC#N | C7H5N3O2S
